US07645764B2
Argon was bubbled into a solution of methyl 3-bromo-4-methylbenzoate (11.45 g, 50 mmol), allyltributyl-stannane (16.72 g, 50.5 mmol) and lithium chloride (5.30 g, 125 mmol) in DMF (100 mL) with magnetic stirring for 20 minutes. Dichlorobis(triphenyl-phosphine)palladium (0.81 g, 1.16 mmol) was then added and mixture heated at 95° C. for 1.5 hours. After cooling to room temperature, the mixture was partitioned between ether-hexanes (1:1 V/V) and water. The combined organic layers were washed with brine, dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified by flash chromatography (Isco RediSep 330 g silica gel, 5% then 35% dichloromethane in hexanes) to give 3-allyl-4-methyl-benzoic acid methyl ester (9.68 g, 100%) as a colorless oil.

reactant | methyl 3-bromo-4-methylbenzoate | 50 mmol, 11.45 g | BrC=1C=C(C(=O)OC)C=CC1C | C9H9BrO2
reactant | allyltributyl-stannane | 50.5 mmol, 16.72 g | C(C=C)[Sn](CCCC)(CCCC)CCCC
reactant | lithium chloride | 125 mmol, 5.30 g | [Cl-].[Li+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
catalyst | Dichlorobis(triphenyl-phosphine)palladium | 1.16 mmol, 0.81 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-allyl-4-methyl-benzoic acid methyl ester | 9.68 g, 100% | COC(C1=CC(=C(C=C1)C)CC=C)=O | C12H14O2
